2189-10-07 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -levo weaned
   -sedation switched from propofol to fentanyl/versed
   Allergies:
   Codeine
   Hypotension;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-10-6**] 08:47 PM
   Vancomycin - [**2189-10-6**] 10:00 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-10-6**] 09:00 PM
   Heparin Sodium - [**2189-10-7**] 06:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-7**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 83 (64 - 122) bpm
   BP: 125/50(77) {79/36(52) - 137/51(81)} mmHg
   RR: 21 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    911 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                    911 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    575 mL
   Urine:
                                                                    900 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     11 mL
                                                                   -399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 292 (292 - 292) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/44/176/26/1
   Ve: 5.9 L/min
   PaO2 / FiO2: 440
   Physical Examination
   GENERAL: unresponsive female, unable to protect airway. Opens eyes
   spontaneously but not to command.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with elevated JVP cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Tachycardic, irregularly irregular rhythm, 3/6 systolic murmur across
   precordium, loudest at apex. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   labored, accessory muscle in use. Bilateral crackles, expiratory
   wheezes.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Bilateral upper extremities cyanotic, cool. No femoral
   bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ PT 1+
   Labs / Radiology
   328 K/uL
   8.9 g/dL
   107 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.5 mEq/L
   23 mg/dL
   105 mEq/L
   139 mEq/L
   28.3 %
   14.0 K/uL
        [image002.jpg]
                            [**2189-10-6**]  05:40 PM
                            [**2189-10-6**]  07:45 PM
                            [**2189-10-7**]  04:18 AM
                            [**2189-10-7**]  04:35 AM
   WBC
   13.7
   14.0
   Hct
   31.8
   28.3
   Plt
   334
   328
   Cr
   0.9
   1.1
   TropT
   0.20
   TCO2
   29
   28
   28
   Glucose
   93
   107
   Other labs: PT / PTT / INR:12.9/55.7/1.1, CK / CKMB /
   Troponin-T:131/5/0.20, ALT / AST:50/41, Alk Phos / T Bili:305/0.8,
   Differential-Neuts:67.1 %, Lymph:17.2 %, Mono:9.8 %, Eos:5.5 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   86 yo female with severe mitral regurgitation, severe tricuspid
   regurgitation, diastolic heart failure, atrial fibrillation transferred
   from [**Location (un) **] for evaluation of respiratory arrest.
   .
   # Altered Mental Status:  Unclear etiology, differential is broad
   including hypoxic or hypercarbic state, hypotension or secondary to
   sedative agents used for intubation earlier in the day, less likely.
   More concerning for acute central event given DC/CV with subsequent
   respiratory event.  Infectious process also on differential given
   recent pneumonia, but may be nosocomial infection given 6 day
   hospitalization.  Less likely causes include uremia, encephalopathy, or
   myxedema coma.  After discussion with pharmacy the half life of
   propofol in the elderly is markedly prolonged especially with prolonged
   infusions.  This may likely be the cause of her AMS, however will rule
   out other causes as well.
   - ABG on arrival
   - Full set of labs including lytes, LFTs, CBC, TSH, lactate
   - UA, UCx, Sputum, blood culture, c diff
   - Intubate for airway protection
   - Urine Tox screen
   - Likely will need Head CT/EEG once hemodynamically stable
   - Change sedation to fentanyl and versed
   - CT head to r/o CVA/ischemia
   .
   # Respiratory Failure:  Per report from [**Location (un) **], the patient's
   respiratory failure had resolved, however on arrival patient unable to
   protect airway with significant crackles bilaterally.  [**Month (only) 11**] have been
   initially secondary to episode of a fib with RVR in the setting of
   diastolic dysfunction and pneumonia with previous intubation from [**9-29**]
   until [**10-5**].
   - CXR on arrival
   - Antibiotic coverage for HAP - Vanc/Zosyn x7d; will f/u with ID re:
   need for Cefepime
   - Intubate on arrival for airway protection
   - Diuresis with IV lasix, will use lasix drip if pressures cannot
   tolerate boluses
   - Ventilator care
   - Nebs PRN
   - ABG later today
   .
   # Hypotension:  [**Month (only) 11**] have been secondary to A fib with RVR on arrival
   vs. infectious process.
   - DC/CV on arrival
   - Pressor support PRN - with levophed instead of dopamine given
   tachycardia
   - Antiobiotics as above
   - Follow up culture data
   - f/u CVP. SVO2
   - 1 unit PRBC for volume and to increase Hct
   .
   # CORONARIES:  History of quadruple CABG in [**2169**], has not been
   reevaluated since.  No evidence of acute ischemia.  No ASA given
   history of PUD.
   - Trend CE's
   - 12 lead EKG on arrival
   - Continue plavix and pravastatin
   - Hold metoprolol and lisinopril for now
   - If the patient is determined to be a candidate for MVR, will likely
   need coronary catheterization prior to consideration for valve
   replacement
   .
   # PUMP:  The patient has diastolic heart failure on most recent echo,
   but preserved systolic function.  Valvular disorders including severe
   mitral regurgitation and tricuspid regurgitation may be contributing to
   patient's dyspnea/respiratory arrest.  If the patient is truly
   symptomatic from mitral regurgitation, she would meet criteria for
   valve replacement.  If her symptoms are secondary to other causes, she
   may still meet criteria given severe nature, presence of pulmonary
   hypertension and possible new recurrence of atrial fibrillation.
   However, in the setting of recent altered mental status, hypotension,
   and respiratory failure will likely not pursue aggressive intervention
   at this time.
   - Repeat TEE in AM / Compare images to [**Location (un) **]
   - Consult CT [**Doctor First Name **] for possible valve replacement
   - Monitor I/Os and daily weights
   - Lasix PRN as above
   .
   # RHYTHM:  The patient has recent history of rapid A fib s/p DC/CV and
   amiodarone/digoxin loading with subsequent bradycardia and junctional
   rhythm.  On arrival, patient was in A fib with RVR and hypotensive.
   - DC/CV on arrival
   - Will hold AV nodal agents in the setting of recent junctional rhythm
   - Amiodarone po 200mg daily
   - Continue heparin drip for anticoagulation
   .
   # Cool LUE:  Will r/o clot given A fib with RVR, risk of clot vs.
   compartment syndrome.
   - Arterial study of RUE
   .
   # Hypothyroidism:  Check TSH.  Continue levothyroxine.
   .
   # Crohn's Disease:  No acute issues, continue to monitor.
   .
   # Macular Degeneration:  Continue brimonidine eye drops and
   PreserVision
   .
   # History of CVA:  Effected her right eye and is s/p left sided CEA.
   Continue plavix and pravastatin.  No aspirin secondary to PUD.
   .
   # PUD:  Continue home PPI
   .
   # Osteoporosis:  Continue actonel weekly
   .
   FEN:  Nutrition will need to be addressed in AM, will likely need tube
   feeds, unclear why the patient was maintained on TPN - consider speech
   and swallow as well as nutrition consult.
   .
   ACCESS: IJ placed at [**Location (un) **] on Left, Arterial line on right
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   .
   CODE: Full Code
   .
   COMM:  Mr. [**First Name8 (NamePattern2) 1139**] [**Known lastname 8715**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-10-6**] 05:52 PM
   Arterial Line - [**2189-10-6**] 07:00 PM
   22 Gauge - [**2189-10-6**] 09:55 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments: with son and husband
   [**Name (NI) 129**] status: full
   Disposition: CCU for now

2189-10-08 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2189-10-7**] 01:51 PM
 MULTI LUMEN - START [**2189-10-7**] 04:16 PM
 MULTI LUMEN - STOP [**2189-10-7**] 11:43 PM
   date on dsg from [**10-5**]
   [**10-7**]:
   -nutrition: tube feeds recs; ordered
   -npo post mn for [**10-8**] TEE
   -right IJ placed
   -pulses found by doppler in left arm, blue of left hand improved with
   heating pad
   -wet read head CT: No acute hemorrhage, mass effect, or territorial
   vascular infarction.  Region of encephalomalacia within the right
   occipital lobe consistent with prior infarct. Scattered punctate
   calcifications throughout the right hemisphere consistent with prior
   granulomatous disease. Scattered calcifications within the basal
   ganglia bilaterally
   -Hct didn't bump following 1 unit transfusion; transfused a 2nd unit
   o/n
   Allergies:
   Codeine
   Hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2189-10-7**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-10-8**] 05:05 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-10-7**] 10:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-8**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 72 (72 - 101) bpm
   BP: 111/42(67) {76/32(49) - 136/55(84)} mmHg
   RR: 25 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 49.7 kg
    CVP: 7 (7 - 7)mmHg
   Mixed Venous O2% Sat: 86 - 86
                              Total In:
                                                                  1,702 mL
                                                                    697 mL
   PO:
                              TF:
                                                                     55 mL
   IVF:
                                                                  1,297 mL
                                                                    322 mL
   Blood products:
                                                                    350 mL
                                                                    375 mL
   Total out:
                                                                  1,340 mL
                                                                    330 mL
   Urine:
                                                                  1,340 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    362 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (336 - 393) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 71
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.40/44/374//2
   Ve: 6.8 L/min
   PaO2 / FiO2: 1,247
   Physical Examination
   GENERAL: unresponsive female, moves eyes to voice, unresponsive to pain
   HEENT: NCAT. Pupils constricted and minimally reactive
   CARDIAC: Tachycardic, irregularly rhythm, [**2-27**] crescendo-decrecendo
   murmur heard loudest at RUSB, blowing murmur loudest at apex,
   precordial lift
   LUNGS: Course BS, no rales or rhonchi anteriorly
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Bilateral L UE cool, blue, RUE WWP. LE WWP w/o edema
   Labs / Radiology
   266 K/uL
   10.2 g/dL
   107 mg/dL
   1.1 mg/dL
   26 mEq/L
    3.7 mEq/L------- to give 40 mEq KCL IV
   23 mg/dL
   105 mEq/L
   139 mEq/L
   31.8 %
   12.8 K/uL
        [image002.jpg]
                            [**2189-10-6**]  05:40 PM
                            [**2189-10-6**]  07:45 PM
                            [**2189-10-7**]  04:18 AM
                            [**2189-10-7**]  04:35 AM
                            [**2189-10-7**]  01:51 PM
                            [**2189-10-7**]  08:00 PM
                            [**2189-10-7**]  09:26 PM
                            [**2189-10-8**]  06:06 AM
                            [**2189-10-8**]  06:15 AM
   WBC
   13.7
   14.0
   12.8
   Hct
   31.8
   28.3
   27.6
   31.8
   Plt
   [**Telephone/Fax (3) 8737**]
   Cr
   0.9
   1.1
   TropT
   0.20
   TCO2
   29
   28
   28
   29
   27
   28
   Glucose
   93
   107
   Other labs: PT / PTT / INR:13.7/ 54.2/1.2, CK / CKMB /
   Troponin-T:364/8/0.20, ALT / AST:50/41, Alk Phos / T Bili:305/0.8,
   Differential-Neuts:67.1 %, Lymph:17.2 %, Mono:9.8 %, Eos:5.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CT Head [**10-7**]
   Preliminary Report !! PFI !!
   PFI: No acute hemorrhage, mass effect, or territorial vascular
   infarction.
   Region of encephalomalacia within the right occipital lobe consistent
   with
   prior infarct. Scattered punctate calcifications throughout the right
   hemisphere consistent with prior granulomatous disease. Scattered
   calcifications within the basal ganglia bilaterally.
   Assessment and Plan
 This is an 86 yr old pt w hx-CABG, severe MR/TR, pulm HTN,
   Afib(coumadin), CVA who was admitted  to OSH EW [**9-29**] with palpitations
   and weakness.
   She was found to be in rapid a-fib with RVR. She was cardioverted into
   NSR, but became bradycardic to the 30s and cyanotic and was intubated
   and started on dopamine. She was also started on IV amiodarone after
   bolus.
   -[**9-30**] she went into junctional rhythm and amiodarone was d/c.
   -[**10-4**] she was loaded with digoxin. [**10-5**] she went back into AF with
   rate in 70-90s and was tolerating it. She is presumed to have a
   community aquired PNA and is on levoquin.
   [**10-6**] AM-pt was extubated at -09:30  and was sating in low 90s on 35%
   ventimask. She was still somnulent, but rouseable and was following
   commands. She was on heparin at 250 units/hr, heparin at 5 mcg/kg and
   TPN at 42cc/hr. (It is unclear why she is receiving TPN and not tube
   feedings.) She is being transfered this afternoon [**10-6**] to be evaluated
   for valve replacement. She is full code.
   [**10-6**]-she arrived in CCU at 17:45 with SBP- in 80s, minimally
   responsive, intermittently gurgling. She was in A-fib with HR in 110
   to 130s with occasional PVCs. She was on heparin at 250 units/hr and
   5mcg/kg dopamine. Dopamine was increased and then changed to levophed.
   It was decided to intubate her and then cardiovert her. She was fully
   cultured. It was determined her BP readings were unreliable d/t hx left
   sc syndrome/obstruction and an ALINE was inserted in rt radial. Pt was
   switched from rocephin/levoquin to  Vanco/Zosyn and switched off
   initial sedation choice of propfol (had been on x 5 days at OSH) to
   versed/fentanyl, which were d/c by 12am d/t hypotension. Pt remains on
   low dose pressor, in SR, afebrile and somnolent off sedation currently.
   Family have been in to speak w CCU team and appear to understand
   current progress/plan of care.
   [**Date range (1) 8734**]- Pt to CT
 (-) for acute neuro change- thought to have
   somnolence d/t long term sedation/propofol. Pt increasingly alert since
   all sedation d/c 12am [**10-7**]. TEE postponed until [**10-8**] AM. Started on
   tube feeds- NPO after MN. Received 2 u PRBC for Hct 27-29. Remains on
   Levo/heparin gtt. New Rt IJ line inserted/ old TLC d/c.
   86 yo female with severe mitral regurgitation, severe tricuspid
   regurgitation, diastolic heart failure, atrial fibrillation transferred
   from [**Location (un) **] for evaluation of respiratory arrest.
   .
   # Altered Mental Status:  Suspect most likely to oversedation, however
   cannot r/o stroke, infectious process.  TSH and metabolic profile WNL.
   - ABG this afternoon
   - Full set of labs including lytes, LFTs, CBC, TSH, lactate
   - UA, UCx, Sputum, blood culture, c diff
   - Continue intubatation for airway protection until MS improves
   - Urine Tox screen pending
   - Hold sedation if tolerated.
   - CT head to r/o CVA/ischemia
   .
   # Respiratory Failure:  Per report from [**Location (un) **], the patient's
   respiratory failure had resolved, however on arrival patient unable to
   protect airway.  ABG with elevated PO2 this AM therefore FiO2
   decreased, CXR on arrival was not especially concerning for volume
   overload or pneumonia, however sputum growing GNR
   - CXR on arrival
   - Antibiotic coverage for HAP - Vanc/Zosyn (start date [**10-6**]) x7d; will
   f/u with ID re: need for Cefepime
   - Follow volume status and diuresis as indicated for volume overload,
   will aim to keep even today
   - Ventilator care
   - Nebs PRN
   - ABG later today
   .
   # Hypotension:  [**Month (only) 11**] have been secondary to A fib with RVR on arrival
   vs. infectious process.  Also concern for hypovolemia given recent
   diuresis and hypotension secondary to oversedation.
   - DC/CV on arrival
   - Pressor support PRN - with levophed instead of dopamine given
   tachycardia
   - Antiobiotics as above
   - Follow up culture data
   - f/u CVP. SVO2
   - 1 unit PRBC for volume and to increase Hct
   .
   # CORONARIES:  History of quadruple CABG in [**2169**], has not been
   reevaluated since.  No evidence of acute ischemia.  No ASA given
   history of PUD.
   - Trend CE's
   - 12 lead EKG on arrival
   - Continue plavix and pravastatin
   - Hold metoprolol and lisinopril for now
   - If the patient is determined to be a candidate for MVR, will likely
   need coronary catheterization prior to consideration for valve
   replacement
   .
   # PUMP:  The patient has diastolic heart failure on most recent echo,
   but preserved systolic function.  Valvular disorders including severe
   mitral regurgitation and tricuspid regurgitation may be contributing to
   patient's dyspnea/respiratory arrest.  If the patient is truly
   symptomatic from mitral regurgitation, she would meet criteria for
   valve replacement.  If her symptoms are secondary to other causes, she
   may still meet criteria given severe nature, presence of pulmonary
   hypertension and possible new recurrence of atrial fibrillation.
   However, in the setting of recent altered mental status, hypotension,
   and respiratory failure will likely not pursue aggressive intervention
   at this time.
   - Repeat TEE in AM / Compare images to [**Location (un) **]
   - Consult CT [**Doctor First Name **] for possible valve replacement
   - Monitor I/Os and daily weights
   - Lasix PRN as above
   .
   # RHYTHM:  The patient has recent history of rapid A fib s/p DC/CV and
   amiodarone/digoxin loading with subsequent bradycardia and junctional
   rhythm.  On arrival, patient was in A fib with RVR and hypotensive.
   - Will hold AV nodal agents in the setting of recent junctional rhythm
   - Amiodarone po 200mg daily
   - Continue heparin drip for anticoagulation
   .
   # Cool LUE:  Will r/o clot given A fib with RVR, risk of clot vs.
   compartment syndrome.
   - Arterial study of RUE
   .
   # Hypothyroidism: TSH WNL, continue levothyroxine at home doses.
   .
   # Crohn's Disease:  No acute issues, continue to monitor.
   .
   # Macular Degeneration:  Continue brimonidine eye drops and
   PreserVision vitamin supplementation.
   .
   # History of CVA:  Effected her right eye and is s/p left sided CEA.
   Continue plavix and pravastatin.  No aspirin secondary to PUD.
   .
   # PUD:  Continue home PPI
   .
   # Osteoporosis:  Continue actonel weekly
   ICU Care
   Nutrition: NPO until after TEE.  Nutrition consult pending
   Glycemic Control:  n/a
   Lines:
   Multi Lumen - [**2189-10-6**] 05:52 PM
   Arterial Line - [**2189-10-6**] 07:00 PM
   22 Gauge - [**2189-10-6**] 09:55 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments: with son [**Name (NI) 411**] ([**Telephone/Fax (1) 8721**]) and husband
   [**Name (NI) 1139**] ([**Telephone/Fax (1) 8722**]), both designated as HCP
   [**Name (NI) 129**] status: full
   Disposition: CCU for now

2189-10-09 08:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2189-10-8**] 10:42 AM
 TRANS ESOPHAGEAL ECHO - At [**2189-10-8**] 01:10 PM
   The left atrium is dilated. No spontaneous echo contrast or thrombus is
   seen in the body of the left atrium or left atrial appendage. The right
   atrium is dilated. Mild spontaneous echo contrast is seen in the body
   of the right atrium. No atrial septal defect is seen by 2D or color
   Doppler. Overall left ventricular systolic function is mildly depressed
   (LVEF= 40 %). The right ventricular cavity is dilated with moderate
   global free wall hypokinesis. There are simple atheroma in the aortic
   arch. There are complex (>4mm) atheroma in the descending thoracic
   aorta. There are three aortic valve leaflets. The aortic valve leaflets
   are moderately thickened. No masses or vegetations are seen on the
   aortic valve. There is mild to moderate aortic valve stenosis. No
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. No mass or vegetation is
   seen on the mitral valve. Moderate to severe (3+) mitral regurgitation
   is seen. There is moderate pulmonary artery systolic hypertension.
   There is no pericardial effusion.
   IMPRESSION: Moderate-severe mitral regurgitation. Mild-moderate
   tricuspid regurgitation. Probably mild/moderate aortic stenosis ([**Location (un) **]
   1.2 cm2). Depressed left and right ventricular function (EF 40%).
   Complex atheroma in the descending aorta.
   MAP in mid 60's; ABP around 102/45.  MAP dropped to low 50's, gave
   250cc bolus x2.
   CXR [**10-8**]: Interval increase in left retrocardiac opacity, which may
   represent
   increasing atelectasis, although pneumonia is not excluded in the
   appropriate
   clinical setting.
   Unchanged interstitial abnormality of unknown chronicity, but which
   would
   most often be expected to represent interstitial edema (diffuse
   bilateral interstitial markings).
   RUQ U/S:
   Tiny right-sided pleural effusion. Otherwise, unremarkable abdominal
   ultrasound.
   Increased pressure support this morning because patient with increased
   RR and increased secretions, HR and RR decreased in response to this
   and patient became more comfortable.
   T100.4 at approx 8AM.
   Allergies:
   Codeine
   Hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2189-10-8**] 08:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-10-9**] 05:00 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-10-8**] 08:42 AM
   Midazolam (Versed) - [**2189-10-8**] 01:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 111 (62 - 111) bpm
   BP: 90/50(66) {79/32(50) - 153/62(95)} mmHg
   RR: 31 (14 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.2 kg (admission): 49.7 kg
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  2,147 mL
                                                                    229 mL
   PO:
   TF:
   IVF:
                                                                  1,772 mL
                                                                    229 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,110 mL
                                                                    185 mL
   Urine:
                                                                  1,110 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,037 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 437 (301 - 450) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 129
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.39/41/121/25/0 (530am today), lactate 1.0
   Ve: 8 L/min
   PaO2 / FiO2: 403
   Physical Examination
   GEN: NAD, resting in bed, intubated, eyes open spontaneously
   CV: III/VI SEM throughout precordium, loudest at RUSB
   PULM: CTAB, on ventilator
   ABD: +bs, soft, nd, not visibly tender to palpation
   EXTR: no edema pedal; hands warmer and less cyanotic/blue/purple than
   previously
   NEURO: eyes open spontaneously, does not track and follow visual
   stimuli, appears somewhat to blink on command
   Labs / Radiology
   225 K/uL
   9.4 g/dL
   87 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   22 mg/dL
   110 mEq/L
   144 mEq/L
   28.5 %
   11.8 K/uL
        [image002.jpg]
                            [**2189-10-7**]  04:35 AM
                            [**2189-10-7**]  01:51 PM
                            [**2189-10-7**]  08:00 PM
                            [**2189-10-7**]  09:26 PM
                            [**2189-10-8**]  06:06 AM
                            [**2189-10-8**]  06:15 AM
                            [**2189-10-8**]  12:14 PM
                            [**2189-10-8**]  05:15 PM
                            [**2189-10-9**]  05:21 AM
                            [**2189-10-9**]  05:39 AM
   WBC
   12.8
   11.8
   Hct
   27.6
   31.8
   29.4
   29.4
   28.5
   Plt
   266
   225
   Cr
   1.1
   1.1
   TCO2
   28
   29
   27
   28
   26
   Glucose
   107
   87
   Other labs: PT / PTT / INR:15.2/70.7/1.3, CK / CKMB /
   Troponin-T:364/8/0.20, ALT / AST:50/41, Alk Phos / T Bili:305/0.8,
   Differential-Neuts:67.1 %, Lymph:17.2 %, Mono:9.8 %, Eos:5.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   86 yo female with severe mitral regurgitation, severe tricuspid
   regurgitation, diastolic heart failure, atrial fibrillation transferred
   from [**Location (un) **] for evaluation of respiratory arrest.
   .
   # Altered Mental Status:  Suspect most likely to oversedation, however
   cannot r/o stroke, infectious process.  TSH and metabolic profile WNL.
   CT head negative for acute process. Improving (ie: spontaneously opens
   eyes), but not responding fully to commands yet.
   - Continue to hold sedation as tolerated.
   - f/u UCx, Sputum, blood culture
   - Continue intubatation for airway protection until MS improves, but
   hope to aim for extubation later today as tolerated
   - Given improvement, do not feel need EEG; will re-consider EEG if
   mental status does not continue to improve
   .
   # Respiratory Failure:  Per report from [**Location (un) **], the patient's
   respiratory failure had resolved, however on arrival patient unable to
   protect airway.  CXR on arrival was not especially concerning for
   volume overload or pneumonia, however sputum growing GNR, CXR [**10-8**]
   shows evidence of LLL PNA. On pressure support now on ventilator.
   - Continue antibiotic coverage for HAP - Vanc/Zosyn (start date [**10-6**])
   x7d; if spikes through this regimen or resp status or CXR worsens,
   consider adding flagyl to regimen
   - Wean ventilator as tolerated and hopefully aim for extubation later
   today
   - Nebs
   - Chest PT s/p extubation
   .
   # Hypotension:  [**Month (only) 11**] have been secondary to A fib with RVR on arrival
   vs. infectious process.  Also concern for hypovolemia given recent
   diuresis and hypotension secondary to oversedation.  In sinus rhythm
   since DC cardioversion [**10-7**].
   - Hold on pressors (with levophed instead of dopamine given
   tachycardia) unless evidence of end organ ischemia or hypotension which
   is unresponsive to fluids
   - Antiobiotics as above
   - Follow up culture data
   - Was oozing at RIJ site, so monitor BP and Hct
   .
   # CORONARIES:  History of quadruple CABG in [**2169**], has not been
   reevaluated since.  No evidence of acute ischemia.  No ASA given
   history of PUD.
   - Continue plavix and pravastatin
   - Hold metoprolol for now
   .
   # PUMP:  The patient has diastolic heart failure on most recent echo,
   but preserved systolic function.  Valvular disorders including severe
   mitral regurgitation and tricuspid regurgitation may be contributing to
   patient's dyspnea/respiratory arrest.  If the patient is truly
   symptomatic from mitral regurgitation, she would meet criteria for
   valve replacement.  If her symptoms are secondary to other causes, she
   may still meet criteria given severe nature, presence of pulmonary
   hypertension and possible new recurrence of atrial fibrillation.
   However, in the setting of recent altered mental status, hypotension,
   and respiratory failure will likely not pursue aggressive intervention
   at this time.  Hypotension likely [**1-26**] hypovolemia, will resuscitate
   with 250cc boluses and monitor BP response and urine output.
   - Monitor I/O
   - Consult CT [**Doctor First Name **] for possible valve replacement once pt stable
   - Given echo finding and decreased EF, systolic and diastolic function;
   start captopril 6.25mg tid and uptitrate as tolerated for afterload
   reduction
   .
   # RHYTHM:  The patient has recent history of rapid A fib s/p DC/CV and
   amiodarone/digoxin loading with subsequent bradycardia and junctional
   rhythm.  On arrival, patient was in A fib with RVR and hypotensive. In
   NSR since DC cardioversion.
   - Will hold AV nodal agents in the setting of recent junctional rhythm
   - Continue Amiodarone po 200mg daily
   - Continue heparin drip for anticoagulation (no coumadin, in case
   considering valvular surgery)
   .
   # Cool LUE:  Dopplers of LUE showed normal flow, warmth improved with
   heating pad and decreased discoloration.
   .
   # Hypothyroidism: TSH WNL, continue levothyroxine at home doses.
   .
   # Crohn's Disease:  No acute issues, continue to monitor.
   .
   # Macular Degeneration:  Continue brimonidine eye drops and
   PreserVision vitamin supplementation.
   .
   # History of CVA:  Affected her right eye and is s/p left sided CEA.
   Continue plavix and pravastatin.  No aspirin secondary to PUD.
   .
   # PUD:  Continue home PPI
   .
   # Osteoporosis:  Continue actonel weekly
   ICU Care
   Nutrition: Tube feeds, per nutrition rec
s. Hold them for now, as might
   extubate later today.
   Glycemic Control:  Monitor blood sugars, she has not been
   hyperglycemic.
   Lines:
   Arterial Line - [**2189-10-6**] 07:00 PM
   22 Gauge - [**2189-10-6**] 09:55 PM
   Multi Lumen - [**2189-10-7**] 04:16 PM
   Prophylaxis:
   DVT: heparin gtt, pneumoboots
   Stress ulcer: omeprazole
   VAP:  elevate HOB
   Comments: PT consult s/p extubation hopefully
   Communication:  Comments: with son [**Name (NI) 411**] ([**Telephone/Fax (1) 8721**]) and husband
   [**Name (NI) 1139**] ([**Telephone/Fax (1) 8722**]), both designated as HCP
   [**Name (NI) 129**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   CCU ATTENDING DAILY PROGRESS NOTE
   I have reviewed the comprehensive daily progress note by Dr. [**Last Name (STitle) **]
   today and I agree with the history, physical examination, assessment
   and plan.  I was present during the physical examination and concur
   with its findings.
   Addendum to the History:  Per Dr. [**Last Name (STitle) **]
s note.  Some eye contact and
   blinking to command today.
   Addendum to Physical Examination:  Per Dr. [**Last Name (STitle) **]
s Note.
   Medical Decision Making.  Mrs. [**Known lastname 8715**] is an 87 year old woman who was
   transferred for evaluation of her severe mitral regurgitation and
   possible surgical repair to prevent recurrent pulmonary edema.  She has
   developed a hospital acquired aspiration pneumonia but is responding to
   antibiotic therapy.  She is now off pressors and is tolerating fluid
   boluses for blood pressure control.  Her peripheral cyanosis has
   improved.
   A TEE yesterday showed moderate-severe mitral regurgitation, mild AS,
   and an LVEF = 40%.  She is currently on amiodarone at 400 mg daily.
   Her CXR shows a slightly worse LLL infiltrate probably secondary to
   volume repletion and a pneumonia.
   We plan to continue with respiratory support under her sensorium
   improves.  She is close to weaning criteria.
   The total time for this visit was 40 minutes and over 50% of the time
   was spend coordinating care and discussing case with the family.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**] B [**Numeric Identifier **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2189-10-9**] 15:13 ------

2189-10-10 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
 SPUTUM CULTURE - At [**2189-10-9**] 09:46 AM
   Low grade temps, but no spike.
   Weaned on vent, MS seemed slightly decreased by afternoon, therefore
   elected not to extubated.  Rested on volume assist o/n then switched to
   pressure support at approximately 4AM.
   More alert, eyes open spontaneously, tracks figure across room, wiggles
   toes to command.
   Allergies:
   Codeine
   Hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2189-10-9**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-10-10**] 06:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-10-9**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-10**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 95 (76 - 106) bpm
   BP: 127/60(85) {96/42(61) - 142/68(96)} mmHg
   RR: 27 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.2 kg (admission): 49.7 kg
             Total In:
                                                                  1,335 mL
                                                                    286 mL
   PO:
             TF:
   IVF:
                                                                  1,305 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    220 mL
   Urine:
                                                                    840 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    495 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 342 (297 - 349) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 85
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.39/36/110/24/-2
   Ve: 6.6 L/min
   PaO2 / FiO2: 367
   Physical Examination
   GEN: NAD.
   CV: RRR, III/VI SEM greatest at apex; oozing at RIJ site
   PULM; Mild rales b/l, but difficult to auscultate over ventilator
   sounds
   ABD: soft, nt, nd, +bs
   EXTR: no pedal edema
   NEURO: wiggles R toes to command, does not squeeze fingers on command,
   visually tracks figure, blinks on command, more alert, does not track
   fingers on command.
   Labs / Radiology
   236 K/uL
   9.7 g/dL
   85 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   24 mg/dL
   113 mEq/L
   146 mEq/L
   30.9 %
   12.1 K/uL
        [image002.jpg]
                            [**2189-10-8**]  06:15 AM
                            [**2189-10-8**]  12:14 PM
                            [**2189-10-8**]  05:15 PM
                            [**2189-10-9**]  05:21 AM
                            [**2189-10-9**]  05:39 AM
                            [**2189-10-9**]  11:17 AM
                            [**2189-10-9**]  12:43 PM
                            [**2189-10-10**]  01:21 AM
                            [**2189-10-10**]  05:29 AM
                            [**2189-10-10**]  05:43 AM
   WBC
   11.8
   12.1
   Hct
   29.4
   29.4
   28.5
   29.8
   29.2
   30.9
   Plt
   225
   236
   Cr
   1.1
   1.1
   TCO2
   28
   26
   21
   23
   Glucose
   87
   85
   Other labs: PT / PTT / INR:17.6/39.2/1.6, CK / CKMB /
   Troponin-T:364/8/0.20, ALT / AST:50/41, Alk Phos / T Bili:305/0.8,
   Differential-Neuts:67.1 %, Lymph:17.2 %, Mono:9.8 %, Eos:5.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   86 yo female with severe mitral regurgitation, severe tricuspid
   regurgitation, diastolic heart failure, atrial fibrillation transferred
   from [**Location (un) **] for evaluation of respiratory arrest.
   .
   # Altered Mental Status:  Suspect most likely to oversedation, however
   cannot r/o stroke, infectious process.  TSH and metabolic profile WNL.
   CT head negative for acute process. Improving (ie: spontaneously opens
   eyes), but not responding fully to commands yet. Concern for no
   significant improvement since yesterday. Also, not moving limbs on
   command, so concern for larger neurologic depression.
   - Continue to hold sedation as tolerated
   - Neuro consult (?consider EEG)
   - f/u UCx, Sputum, blood culture
   - Continue intubatation for airway protection until MS improves, but
   hope to aim for extubation tomorrow as tolerated; not rushing to
   intubate as MS not fully appropriate yet
   .
   # Respiratory Failure:  Per report from [**Location (un) **], the patient's
   respiratory failure had resolved, however on arrival patient unable to
   protect airway.  CXR on arrival was not especially concerning for
   volume overload or pneumonia, however sputum growing GNR, and CXR [**10-8**]
   shows evidence of LLL PNA. On pressure support now on ventilator.
   - Continue antibiotic coverage for HAP - Vanc/Zosyn (start date [**10-6**])
   x7d
   - Check vancomycin trough tomorrow morning
   - Confirm antibiotic dosing based upon renal function
   - Wean ventilator as tolerated and hopefully aim for extubation
   tomorrow, but more based on MS at this point rather than from a
   respiratory standpoint, although a combination of both components
   - Nebs
   - plan for chest PT s/p extubation
   - Lasix 40 IV now, goal -500cc today; as concern for volume overload
   given echo findings and significant fluid given during this
   hospitalization
   .
   # Hypotension:  [**Month (only) 11**] have been secondary to A fib with RVR on arrival
   vs. infectious process.  Also concern for hypovolemia given recent
   diuresis and hypotension secondary to oversedation.  In sinus rhythm
   since DC cardioversion [**10-7**]. Blood pressures significantly improved,
   even now on captopril.
   - Hold on pressors (with levophed instead of dopamine given
   tachycardia) unless evidence of end organ ischemia or hypotension which
   is unresponsive to fluids
   - Antiobiotics as above, especially with low-grade fever, concern for
   septic picture
   - Follow up culture data
   - Continues to ooze at RIJ site, so monitor BP and Hct; Hct stable
   overnight (was supratherapeutic on heparin, but was oozing even when
   not supratherapeutic earlier); put extra dressing or stitch as needed;
   request PICC line placement, so might be able to d/c RIJ if needed, but
   keep central access for now
   - Given higher blood pressure, uptitrate captopril to 25mg tid, as
   tolerated by BP
   .
   # CORONARIES:  History of quadruple CABG in [**2169**], has not been
   reevaluated since.  No evidence of acute ischemia.  No ASA given
   history of PUD.
   - Continue plavix and pravastatin
   - Hold metoprolol for now
   .
   # PUMP:  The patient has diastolic heart failure on most recent echo,
   but preserved systolic function.  Valvular disorders including severe
   mitral regurgitation and tricuspid regurgitation may be contributing to
   patient's dyspnea/respiratory arrest.  If the patient is truly
   symptomatic from mitral regurgitation, she would meet criteria for
   valve replacement.  If her symptoms are secondary to other causes, she
   may still meet criteria given severe nature, presence of pulmonary
   hypertension and possible new recurrence of atrial fibrillation.
   However, in the setting of recent altered mental status, hypotension,
   and respiratory failure will likely not pursue aggressive intervention
   at this time.  Feel patient volume-overloaded at this point, s/p
   multiple fluid boluses for hypotension
   - 40 IV lasix now; goal I/O = -500cc today
   - Monitor I/O
   - Consult CT [**Doctor First Name **] for possible valve replacement once pt stable
   - Uptitrate captopril to 25mg tid, as tolerated by BP
   - Continue to hold metoprolol
   .
   # RHYTHM:  The patient has recent history of rapid A fib s/p DC/CV and
   amiodarone/digoxin loading with subsequent bradycardia and junctional
   rhythm.  On arrival, patient was in A fib with RVR and hypotensive. In
   NSR since DC cardioversion.
   - Will hold AV nodal agents in the setting of recent junctional rhythm
   - Continue Amiodarone po 200mg daily
   - Continue heparin drip for anticoagulation (no coumadin, in case
   patient were to go for valvular surgery)
   .
   # Cool LUE:  Dopplers of LUE showed normal flow, warmth improved with
   heating pad and decreased discoloration.
   .
   # Hypothyroidism: TSH WNL, continue levothyroxine at home doses.
   .
   # Crohn's Disease:  No acute issues, continue to monitor.
   .
   # Macular Degeneration:  Continue brimonidine eye drops and
   PreserVision vitamin supplementation.
   .
   # History of CVA:  Affected her right eye and is s/p left sided CEA.
   Continue plavix and pravastatin.  No aspirin secondary to PUD.
   .
   # PUD:  Continue home PPI
   .
   # Osteoporosis:  Continue actonel weekly
   ICU Care
   Nutrition: Restart tube feeds, per nutrition rec
   Glycemic Control:  Monitor blood sugars, she has not been
   hyperglycemic.
   Lines:
   Arterial Line - [**2189-10-6**] 07:00 PM
   Multi Lumen - [**2189-10-7**] 04:16 PM (RIJ)
   Request PICC line placement today
   Prophylaxis:
   DVT: heparin gtt, pneumoboots
   Stress ulcer: omeprazole
   VAP:  elevate HOB
   Comments: PT consult s/p extubation hopefully
   Communication:  Comments: with son [**Name (NI) 411**] ([**Telephone/Fax (1) 8721**]) and husband
   [**Name (NI) 1139**] ([**Telephone/Fax (1) 8722**]), both designated as HCP
   [**Name (NI) 129**] status: Full code
   Disposition: CCU

2189-10-11 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2189-10-10**] 04:21 PM
 MULTI LUMEN - STOP [**2189-10-10**] 04:40 PM (RIJ) Oozing continues,
   pressure dressing in place. Pressure held on two different occasions
   overnight, manually.
   More alert
 smiling, binking, wiggles toes, raises eyebrows.
   Tan-colored secretions.
   Captopril increased to 25mg tid and then to 37.5mg tid, with hold
   parameters.
   Neuro consult:
   MRI/A of head and neck
   Treat PNA as you are
   Repeat UA
   monitor CBC
   can consider EEG if altered mental status does not improve
   -Her motor exam is significantly remarkable for general weakness
   -she has
   increased tone in the upper extremities bilaterally and is
   areflexic in the knees and ankles (lower motor neuron signs),
   although is flaccid in the lower extremities has positive
   Babinski sign (upper motor neuron lesion).
    -Though the team was consulted to assess her change in mental
   status, her weakness is far more striking.
   -waxing/[**Doctor Last Name 282**] timecourse, most c/w delerium, with her co-morbid
   infection being
   the most likey underlying culprit.
   -she likely does not have CNS infection given that
   she does not have meningismus, and would hold on LP.
   -Seizure is very unlikely
   -Her weakess is diffuse and severe, however the pattern that
   emerges is one of some distal sparing (a so-called "person in a
   barrel"). The most likely etiology would be due to the patient
   experiencing watershed infarcts especially in the context of
   being hypotensive while being treated for her atrial
   fibrillation.  A head CT was done on [**10-7**] which did not reveal
   an acute hemorrhage or infarction, however, the CT is less
   sensitive than MRI in evaluating for soft tissue infarction.
   Thus, in order to evaluate whether the patient experienced a
   stroke, an head MRI would be recommended.
   -A critical care myopathy could potentially present with weakness in a
   more
   proximal pattern as she has, however, this typically takes longer
   to develop (she has been in the hospital less than one week), and
   is usually less severe.
   Allergies:
   Codeine
   Hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2189-10-10**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-10-11**] 01:14 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-10-10**] 08:00 AM
   Furosemide (Lasix) - [**2189-10-10**] 11:09 AM
   Heparin Sodium - [**2189-10-10**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-11**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 85 (66 - 109) bpm
   BP: 103/47(67) {76/32(48) - 170/78(109)} mmHg
   RR: 18 (14 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 49.7 kg
             Total In:
                                                                  1,493 mL
                                                                    278 mL
   PO:
             TF:
                                                                     51 mL
   IVF:
                                                                  1,062 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    360 mL
   Urine:
                                                                  1,810 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -317 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 270 (270 - 283) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 90
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/40/107/26/2
   Ve: 6.6 L/min
   PaO2 / FiO2: 357
   Physical Examination
   GEN: NAD, smiling, intubated, on SBT
   CV: RRR, III/VI SEM, dynamic precordium, palpable RV heave
   PULM: Ventilator sounds predominate
   ABD: soft, nt, nd
   EXTR: no edema, pneumoboots in place
   NEURO: smiling, raises eyebrows, wiggles b/l toes to command, more
   alert & wide-eyed and tracks figures across the room.
   Labs / Radiology
   201 K/uL
   8.8 g/dL
   90 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.7 mEq/L
   25 mg/dL
   112 mEq/L
   147 mEq/L
   27.2 %
   12.2 K/uL
        [image002.jpg]
                            [**2189-10-9**]  05:21 AM
                            [**2189-10-9**]  05:39 AM
                            [**2189-10-9**]  11:17 AM
                            [**2189-10-9**]  12:43 PM
                            [**2189-10-10**]  01:21 AM
                            [**2189-10-10**]  05:29 AM
                            [**2189-10-10**]  05:43 AM
                            [**2189-10-10**]  02:01 PM
                            [**2189-10-11**]  03:03 AM
                            [**2189-10-11**]  03:27 AM
   WBC
   11.8
   12.1
   10.9
   12.2
   Hct
   28.5
   29.8
   29.2
   30.9
   29.2
   27.2
   Plt
   [**Telephone/Fax (3) 8776**]01
   Cr
   1.1
   1.1
   1.2
   TCO2
   26
   21
   23
   28
   Glucose
   87
   85
   90
   Other labs: PT / PTT / INR:22.3/67.3/2.1, CK / CKMB /
   Troponin-T:364/8/0.20, ALT / AST:50/41, Alk Phos / T Bili:305/0.8,
   Differential-Neuts:67.1 %, Lymph:17.2 %, Mono:9.8 %, Eos:5.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   86 yo female with severe mitral regurgitation, severe tricuspid
   regurgitation, diastolic heart failure, atrial fibrillation transferred
   from [**Location (un) **] for evaluation of respiratory arrest.
   .
   # Altered Mental Status:  Suspect most likely to oversedation, however
   cannot r/o stroke, infectious process.  TSH and metabolic profile WNL.
   CT head negative for acute process. Significantly more alert and
   interactive yesterday/today.
   - Continue to hold sedation as tolerated
   - given improvement in mental status, hold off on MRI head/neck (but
   consider this as first priority if the patient
s mental status
   deteriorates again); also hold off on EEG and LP per neuro
   - f/u neuro recs
   - f/u UCx, U/A, sputum, blood culture
 in case infection contributing
   to a delirium picture
   - feel MS improved to the point where could attempt extubation today as
   patient
s MS significantly improved from admission
   - f/u SBT and RSBI
   - our team is considering muscle weakness could most likely be critical
   care myopathy (secondary thought, watershed stroke)
   .
   # Respiratory Failure:  Per report from [**Location (un) **], the patient's
   respiratory failure had resolved, however on arrival patient unable to
   protect airway.  CXR on arrival was not especially concerning for
   volume overload or pneumonia, however sputum growing GNR, and CXR [**10-8**]
   shows evidence of LLL PNA. On pressure support now on ventilator.
   - Continue antibiotic coverage for HAP - Vanc/Zosyn (start date [**10-6**])
   x7d
   - vancomycin trough demonstrates Vanc dose should be decreased
   - F/U SBT and RSBI, hopefully aim for extubation today
   - Nebs
   - Plan for chest PT s/p extubation
   - I
s & O
s: goal -500cc today; as concern for volume overload given
   echo findings and significant fluid given during this hospitalization
   - monitor secretions
   .
   # Hypotension:  [**Month (only) 11**] have been secondary to A fib with RVR on arrival
   vs. infectious process.  Also concern for hypovolemia given recent
   diuresis and hypotension secondary to oversedation.  In sinus rhythm
   since DC cardioversion [**10-7**]. Blood pressures significantly improved,
   hypotension resolved.
   .
   # Oozing at RIJ former site:
   -pressure dressings
   -follow Hct
   .
   # CORONARIES:  History of quadruple CABG in [**2169**], has not been
   reevaluated since.  No evidence of acute ischemia.  No ASA given
   history of PUD.
   - Continue plavix and pravastatin
   - Captopril 37.5mg tid
   .
   # PUMP:  The patient has diastolic heart failure on most recent echo,
   but preserved systolic function.  Valvular disorders including severe
   mitral regurgitation and tricuspid regurgitation may be contributing to
   patient's dyspnea/respiratory arrest.  If the patient is truly
   symptomatic from mitral regurgitation, she would meet criteria for
   valve replacement.  If her symptoms are secondary to other causes, she
   may still meet criteria given severe nature, presence of pulmonary
   hypertension and possible new recurrence of atrial fibrillation.
   However, in the setting of recent altered mental status, hypotension,
   and respiratory failure will likely not pursue aggressive intervention
   at this time.  Feel patient volume-overloaded at this point, s/p
   multiple fluid boluses for hypotension
   - goal I/O = -500cc today
   - Consult CT [**Doctor First Name **] for possible valve replacement once pt stable,
   extubated
   - Captopril 37.5mg po tid
   .
   # RHYTHM:  The patient has recent history of rapid A fib s/p DC/CV and
   amiodarone/digoxin loading with subsequent bradycardia and junctional
   rhythm.  On arrival, patient was in A fib with RVR and hypotensive. In
   NSR since DC cardioversion.
   - Will hold AV nodal agents in the setting of recent junctional rhythm
   - Continue Amiodarone po 200mg daily
   - Continue heparin drip for anticoagulation (no coumadin, in case
   patient were to go for valvular surgery)
   .
   # Cool LUE:  Dopplers of LUE showed normal flow, warmth improved with
   heating pad and decreased discoloration.
   .
   # Hypothyroidism: TSH WNL, continue levothyroxine at home doses.
   .
   # Crohn's Disease:  No acute issues, continue to monitor.
   .
   # Macular Degeneration:  Continue brimonidine eye drops and
   PreserVision vitamin supplementation.
   .
   # History of CVA:  Affected her right eye and is s/p left sided CEA.
   Continue plavix and pravastatin.  No aspirin secondary to PUD.
   .
   # PUD:  Continue home PPI
   .
   # Osteoporosis:  Continue actonel weekly
   ICU Care
   Nutrition: NPO after midnight for possible extubation today. Holding
   tube feeds.
   Replete lytes PRN.
   Glycemic Control:  Monitor blood sugars, she has not been significantly
   hyperglycemic (mostly 80s, 90s, 100s), so no treatment plan instituted
   thus far.
   Lines:
   Arterial Line - [**2189-10-6**] 07:00 PM
   PICC Line - [**2189-10-10**] 04:21 PM
   Prophylaxis:
   DVT: heparin gtt, pneumoboots
   Stress ulcer:
   VAP:  omeprazole, on vancomycin & zosyn as treatment for HAP
   Comments:
   Communication:  Comments: with son [**Name (NI) 411**] ([**Telephone/Fax (1) 8721**]) and husband
   [**Name (NI) 1139**] ([**Telephone/Fax (1) 8722**]), both designated as HCP. Family planning on visiting
   around 10 or 11am today.
   Code status: Full code
   Disposition: CCU

2189-10-12 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pt extubated [**10-11**], doing well off vent on shovel mask. Given Lasix
   40mg IV x1 prior to extubation.
   -Captopril increased to 50mg [**Hospital1 **] yesterday, given increased dose in PM
   along with Hydralazine for BP 140
s-150
s and increased rales on exam
   in setting of mod-severe MR, mild TR.  BP subsequently dropped to 70
   systolic in conjunction with going into Afib with RVR with HR in 120
   - Given Amio 150mg IV bolus for Afib with RVR and initiated on drip
   with improvement of rates, occasional sinus beats on telemetry.
   - Significant R neck ooze at prior IJ site, Hct stable yesterday at 27,
   dropped to 24 this morning.  Given 1 unit PRBC with Lasix bolus 40mg IV
   x1 for the volume from PRBCs as BP improved in 90's-100's systolic this
   morning.
   -Vanc held today, dosing by trough, today is last day of 7 day course.
   Allergies:
   Codeine
   Hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2189-10-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-10-11**] 12:00 PM
   Piperacillin - [**2189-10-12**] 05:45 AM
   Infusions:
   Heparin Sodium - 606 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2189-10-11**] 12:30 PM
   Hydralazine - [**2189-10-11**] 08:00 PM
   Pantoprazole (Protonix) - [**2189-10-11**] 11:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 94 (69 - 128) bpm
   BP: 107/52(72) {87/38(58) - 159/59(95)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 52.7 kg (admission): 49.7 kg
             Total In:
                                                                  1,434 mL
                                                                    321 mL
   PO:
             TF:
   IVF:
                                                                  1,134 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    395 mL
   Urine:
                                                                  2,585 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,151 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 291 (291 - 304) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.46/40/115/26/5
   Ve: 7.3 L/min
   PaO2 / FiO2: 287
   Physical Examination
   GEN: NAD, smiling, interactive.
   HEENT:  Continued bleeding through dressing at R neck
   CV: RRR, GIII/VI murmer at RUSB and apex, dynamic precordium with RV
   heave
   PULM: Ventilator sounds predominate
   ABD: soft, NT/ND
   EXTR: no pedal edema
   Labs / Radiology
   213 K/uL
   8.2 g/dL
   114 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.1 mEq/L
   22 mg/dL
   110 mEq/L
   146 mEq/L
   24.7 %
   12.0 K/uL
        [image002.jpg]
                            [**2189-10-10**]  02:01 PM
                            [**2189-10-11**]  03:03 AM
                            [**2189-10-11**]  03:27 AM
                            [**2189-10-11**]  10:34 AM
                            [**2189-10-11**]  04:53 PM
                            [**2189-10-11**]  07:00 PM
                            [**2189-10-11**]  10:30 PM
                            [**2189-10-11**]  10:58 PM
                            [**2189-10-12**]  05:30 AM
                            [**2189-10-12**]  05:44 AM
   WBC
   10.9
   12.2
   12.0
   Hct
   29.2
   27.2
   27.4
   24.7
   Plt
   223
   201
   213
   Cr
   1.2
   1.3
   TCO2
   28
   22
   28
   26
   27
   29
   Glucose
   90
   114
   Other labs: PT / PTT / INR:14.1/60.5/1.2, CK / CKMB /
   Troponin-T:364/8/0.20, ALT / AST:50/41, Alk Phos / T Bili:305/0.8,
   Differential-Neuts:67.1 %, Lymph:17.2 %, Mono:9.8 %, Eos:5.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Imaging: CXR pending
   Microbiology: Sputum Cx
   GRAM STAIN (Final [**2189-10-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Final [**2189-10-11**]):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.
   Assessment and Plan
 86 yo female with severe mitral regurgitation, severe tricuspid
   regurgitation, diastolic heart failure, atrial fibrillation transferred
   from [**Location (un) **] for evaluation of respiratory arrest.
   .
   # RHYTHM:  The patient has recent history of rapid A fib s/p DC/CV and
   amiodarone/digoxin loading with subsequent bradycardia and junctional
   rhythm.  On arrival, patient was in A fib with RVR and hypotensive. In
   NSR since DC cardioversion until [**10-11**] when patient went back into a
   fib with RVR, currently HR 90s-100s.
   - Continue Amiodarone drip
   - Continue Amiodarone po 200mg daily
   - Continue Heparin drip for anticoagulation (no coumadin, in case
   patient were to go for valvular surgery in the near future)
   - Will hold AV nodal agents in the setting of recent junctional rhythm
   at OSH
   .
   # Mitral Regurgitation/Tricuspid Regurgitation:  Mod-severe
   MR/mild-moderate TR on TTE in-house.  Will keep afterload reduced <120
   systolic to prevent flash pulmonary edema with MR.
   - Captopril 50mg tid for afterload reduction
   # PUMP:  The patient has diastolic heart failure on most recent echo,
   but preserved systolic function, TTE in-house showed EF 40%.  Valvular
   disorders including severe mitral regurgitation and tricuspid
   regurgitation may be contributing to patient's dyspnea/respiratory
   arrest.  If the patient is truly symptomatic from mitral regurgitation,
   she would meet criteria for valve replacement.  If her symptoms are
   secondary to other causes, she may still meet criteria given severe
   nature, presence of pulmonary hypertension and possible new recurrence
   of atrial fibrillation.  However, in the setting of recent altered
   mental status, hypotension, and recent extubation, will likely not
   pursue aggressive intervention at this time.  Feel patient euvolemic,
   will aim to keep even today.
   - goal I/O = even today
   - Captopril 50mg po tid
   - Pending resolution of acute issues, will consider consulting CT [**Doctor First Name **]
   for possible valve replacement in the future
   .
   # CORONARIES:  History of quadruple CABG in [**2169**], has not been
   reevaluated since.  No evidence of acute ischemia.  No ASA given
   history of PUD.
   - Continue plavix and pravastatin and captopril
   .
   # Decreased Hct/Bleeding from R Neck:  Continued bleeding from prior R
   IJ site, had been bleeding since IJ was placed.  Likely damaged vein in
   neck during IJ placement.  Previously stable hct but this morning with
   decrease in hct from 27 -> 24.
   - [**Hospital1 **] Hct
   - US neck to evaluate for hematoma
   - Transfuse as needed for rapidly downtrending Hct or Hct<25 given h/o
   CAD
   .
   # Altered Mental Status:  Likely [**1-26**] oversedation, however cannot r/o
   stroke, infectious process.  TSH and metabolic profile WNL.  CT head
   negative for acute process. Significantly improved, alert and
   interactive currently.  Possible contribution from PNA which is
   currently being treated with Abx.
   - f/u UCx, U/A, sputum, blood culture
 in case infection contributing
   to a delirium picture
   - Full neuro exam today or tomorrow to assess for focal deficet, though
   unlikely
   - Assess pt
s baseline by discussion with family
   .
   # Respiratory Failure:  Per report from [**Location (un) **], the patient's
   respiratory failure had resolved, however on arrival patient unable to
   protect airway.  CXR on arrival was not especially concerning for
   volume overload or pneumonia, however sputum growing GNR, and CXR [**10-8**]
   shows evidence of LLL PNA. On pressure support previously, now
   extubated successfully.
   - Continue antibiotic coverage for HAP - Vanc/Zosyn (start date [**10-6**])
   x7d; today is last day ([**10-12**]).
   - Dosing Vanc by trough; last dose today given trough 16 this AM.
   - Nebs ordered prn
   - Chest PT s/p extubation
   - No Lasix for now; I
s & O
s goal  even today, given hypernatremia and
   lower BP.  Will reassess volume status daily and ensure tight control
   on afterload/SBP to prevent flash pulmonary edema given severe MR.
   .
   # Hypotension:  Likely secondary to A fib with RVR with component of
   infectious process/sepsis.  Cultures negative to date on Vanc/Zosyn,
   last day of abx today [**10-12**].  Questionable fluid status given
   hypernatremia and lack of pedal edema, but rales on exam (may be [**1-26**]
   atelectasis).  BP improved in sinus [**Date range (1) 8797**].  Blood pressures
   improved this morning in 90
   .
   # Cool LUE:  Dopplers of LUE showed normal flow, warmth improved with
   heating pad and decreased discoloration.
   .
   # Hypothyroidism: TSH WNL, continue levothyroxine at home doses.
   .
   # Crohn's Disease:  No acute issues, continue to monitor.
   .
   # Macular Degeneration:  Continue brimonidine eye drops and
   PreserVision vitamin supplementation.
   .
   # History of CVA:  Affected her right eye and is s/p left sided CEA.
   Continue plavix and pravastatin.  No aspirin secondary to PUD.
   .
   # PUD:  Continue home PPI
   .
   # Osteoporosis:  Continue actonel weekly
   ICU Care
   Nutrition: Cardiac diet.
   Replete lytes PRN.
   Glycemic Control:  Monitor blood sugars, she has not been significantly
   hyperglycemic (mostly 80s, 90s, 100s), so no treatment plan instituted
   thus far.
   Lines:
   Arterial Line - [**2189-10-6**] 07:00 PM
   PICC Line - [**2189-10-10**] 04:21 PM
   Prophylaxis:
   DVT: heparin gtt, pneumoboots
   Stress ulcer:
   VAP:  omeprazole, on vancomycin & zosyn as treatment for HAP
   Comments:
   Communication:  Comments: with son [**Name (NI) 411**] ([**Telephone/Fax (1) 8721**]) and husband
   [**Name (NI) 1139**] ([**Telephone/Fax (1) 8722**]), both designated as HCP. Family planning on visiting
   around 10 or 11am today.
   Code status: Full code
   Disposition: CCU

2189-10-13 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -US neck negative
   -Leukocytosis 12 -> 14 (5.5% Eo [**10-6**])
   -Vanc trough 25.8
   -Hct stable 30 post-transfusion, PTT 56
   -Cr 1.4 (baseline 1.1)
   -Some discrepancy between a-line pressures and cuff pressure overnight,
   but appears more accurate this morning.  Hypotensive overnight by
   A-line but adequate cuff pressure.
   Allergies:
   Codeine
   Hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2189-10-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-10-11**] 12:00 PM
   Piperacillin - [**2189-10-13**] 06:01 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-10-12**] 08:35 AM
   Pantoprazole (Protonix) - [**2189-10-12**] 08:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-13**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 83 (81 - 100) bpm
   BP: 125/54(79) {67/31(44) - 140/83(319)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 52.7 kg (admission): 49.7 kg
   Height: 60 Inch
             Total In:
                                                                  1,877 mL
                                                                    506 mL
   PO:
             TF:
                                                                    139 mL
                                                                    196 mL
   IVF:
                                                                    948 mL
                                                                    280 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,097 mL
                                                                    159 mL
   Urine:
                                                                  2,097 mL
                                                                    159 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -220 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   GEN: NAD, alert, interactive.
   HEENT:  Continued bleeding through dressing at R neck
   CV: RRR, GIII/VI murmer at RUSB and apex, dynamic precordium with RV
   heave
   PULM: Ventilator sounds predominate
   ABD: soft, NT/ND
   EXTR: no pedal edema
   Labs / Radiology
   248 K/uL
   9.9 g/dL
   123 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.3 mEq/L
   23 mg/dL
   105 mEq/L
   143 mEq/L
   30.4 %
   14.1 K/uL
        [image002.jpg]
                            [**2189-10-11**]  10:34 AM
                            [**2189-10-11**]  04:53 PM
                            [**2189-10-11**]  07:00 PM
                            [**2189-10-11**]  10:30 PM
                            [**2189-10-11**]  10:58 PM
                            [**2189-10-12**]  05:30 AM
                            [**2189-10-12**]  05:44 AM
                            [**2189-10-12**]  06:43 AM
                            [**2189-10-12**]  04:48 PM
                            [**2189-10-13**]  05:38 AM
   WBC
   12.0
   14.1
   Hct
   27.4
   24.7
   24.5
   30.5
   30.4
   Plt
   213
   248
   Cr
   1.3
   1.4
   TCO2
   22
   28
   26
   27
   29
   Glucose
   114
   123
   Other labs: PT / PTT / INR:13.0/56.3/1.1, CK / CKMB /
   Troponin-T:364/8/0.20, ALT / AST:50/41, Alk Phos / T Bili:305/0.8,
   Differential-Neuts:67.1 %, Lymph:17.2 %, Mono:9.8 %, Eos:5.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Imaging: US Neck [**10-12**]:
   Small nonocclusive thrombus seen within the right IJ at the level of
   the recent puncture. There is no pseudoaneurysm. No AV fistula and no
   hematoma identified.
   Assessment and Plan
 86 yo female with severe mitral regurgitation, severe tricuspid
   regurgitation, diastolic heart failure, atrial fibrillation transferred
   from [**Location (un) **] for evaluation of respiratory arrest.
   .
   # RHYTHM:  The patient has recent history of rapid A fib s/p DC/CV and
   amiodarone/digoxin loading with subsequent bradycardia and junctional
   rhythm.  On arrival, patient was in A fib with RVR and hypotensive. In
   NSR since DC cardioversion until [**10-11**] when patient went back into a
   fib with RVR, currently HR 90s-100s.  Amio drip complete, rates
   adequately controlled with HRs in 80
s-90
   - Continue Amiodarone po 200mg daily
   - Transition over to Coumadin today; continue Heparin drip for bridge
   - Will hold AV nodal agents in the setting of recent junctional rhythm
   at OSH
   .
   # Respiratory Status:  Per report from [**Location (un) **], the patient's
   respiratory failure had resolved, however on arrival patient unable to
   protect airway.  CXR on arrival was not especially concerning for
   volume overload or pneumonia, however sputum growing GNR, and CXR [**10-8**]
   shows evidence of LLL PNA. On pressure support previously, now
   extubated successfully.
   - Continue antibiotic coverage for HAP - Vanc/Zosyn (start date [**10-6**])
   x7d; today is last day ([**10-12**]).
   - Nebs ordered prn
   - Continue chest PT
   - No Lasix for now; I
s & O
s goal  even today, given hypernatremia and
   lower BP.  Will reassess volume status daily and ensure tight control
   on afterload/SBP to prevent flash pulmonary edema given severe MR.
   .
   # Mitral Regurgitation/Tricuspid Regurgitation:  Mod-severe
   MR/mild-moderate TR on TTE in-house.  Will keep afterload reduced <120
   systolic to prevent flash pulmonary edema with MR.
   - Transition from Captopril 50mg tid to Lisinopril today for afterload
   reduction
   .
   # Renal Failure:  Patient
s baseline Cr 1.1, currently at 1.4; possibly
   [**1-26**] recent ACEi, either transient increase in Cr vs. medication induced
   AIN.
   - Monitor Cr
   - Obtain urine electrolytes, urine eosinophils
   .
   # Leukocytosis:  Patient has increasing leukocytosis, but normal PMNs
   with elevated relative Eosinophils, now with watery diarrhea.  Most
   likely [**1-26**] C. diff, believe yeast bacteremia unlikely [**1-26**] negative
   blood cultures and patient is afebrile, not immunocompromised.
   Completed Vanc course for PNA so this should not be contributing to
   leukocytosis; all cultures negative to date except rare yeast on sputum
   culture.
   - C. diff stool studies
   - Trend leukocytosis
   .
   # PUMP:  The patient has diastolic heart failure on most recent echo,
   but preserved systolic function, TTE in-house showed EF 40%.  Valvular
   disorders including severe mitral regurgitation and tricuspid
   regurgitation may be contributing to patient's dyspnea/respiratory
   arrest.  If the patient is truly symptomatic from mitral regurgitation,
   she would meet criteria for valve replacement.  If her symptoms are
   secondary to other causes, she may still meet criteria given severe
   nature, presence of pulmonary hypertension and possible new recurrence
   of atrial fibrillation.  However, in the setting of recent altered
   mental status, hypotension, and recent extubation, will likely not
   pursue aggressive intervention at this time.  Feel patient euvolemic,
   will aim to keep even today.
   - goal I/O = even- (-)500cc today
   - Transition Captopril 50mg po tid to Lisinopril as above
   - Pending resolution of acute issues, will consider discussing possible
   valve replacement in the future
   .
   # CORONARIES:  History of quadruple CABG in [**2169**], has not been
   reevaluated since.  No evidence of acute ischemia.  No ASA given
   history of PUD.
   - Continue plavix and pravastatin and captopril
   .
   # Decreased Hct/Bleeding from R Neck:  Continued bleeding from prior R
   IJ site, had been bleeding since IJ was placed.  Likely damaged vein in
   neck during IJ placement.  Previously stable hct but this morning with
   decrease in hct from 27 -> 24.  US negative for fistula/hematoma.  Only
   minimal blood at dressing site today with lower PTT.
   - Daily Hct
   - Transfuse as needed for rapidly downtrending Hct or Hct<25 given h/o
   CAD
   .
   # Altered Mental Status:  Likely [**1-26**] oversedation, however cannot r/o
   stroke, infectious process.  TSH and metabolic profile WNL.  CT head
   negative for acute process. Significantly improved, alert and
   interactive currently.  Possible contribution from PNA which is
   currently being treated with Abx.  Cultures only significant for sparse
   growth of yeast in sputum x2.
   - Sputum Cx
   - Full neuro exam today or tomorrow to assess for focal deficet, though
   unlikely
   - Assess pt
s baseline by discussion with family
   .
   # Hypotension:  Likely secondary to A fib with RVR with component of
   infectious process/sepsis.  Cultures negative to date on Vanc/Zosyn,
   last day of abx today [**10-12**].  Questionable fluid status given
   hypernatremia and lack of pedal edema, but rales on exam (may be [**1-26**]
   atelectasis).  BP improved in sinus [**Date range (1) 8797**].  Blood pressures
   improved this morning in 90
   .
   # Cool LUE:  Dopplers of LUE showed normal flow, warmth improved with
   heating pad and decreased discoloration.
   .
   # Hypothyroidism: TSH WNL, continue levothyroxine at home doses.
   .
   # Crohn's Disease:  No acute issues, continue to monitor.
   .
   # Macular Degeneration:  Continue brimonidine eye drops and
   PreserVision vitamin supplementation.
   .
   # History of CVA:  Affected her right eye and is s/p left sided CEA.
   Continue plavix and pravastatin.  No aspirin secondary to PUD.
   .
   # PUD:  Continue home PPI
   .
   # Osteoporosis:  Continue actonel weekly
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2189-10-13**] 04:24 AM 30 mL/hour
   Glycemic Control:  Monitor blood sugars, she has been mostly 80s, 90s,
   100s.
   Lines:
   Arterial Line - [**2189-10-6**] 07:00 PM
   PICC Line - [**2189-10-10**] 04:21 PM
   Prophylaxis:
   DVT: heparin gtt, pneumoboots
   Stress ulcer:
   VAP:  omeprazole, on vancomycin & zosyn as treatment for HAP
   Comments:
   Communication:  Comments: with son [**Name (NI) 411**] ([**Telephone/Fax (1) 8721**]) and husband
   [**Name (NI) 1139**] ([**Telephone/Fax (1) 8722**]), both designated as HCP. [**Name (NI) 129**] status: Full code
   Disposition: CCU